US07728155B2
To a solution of (±)-3-[4-(benzyloxy)-7-methyl-2,3-dihydro-1H-inden-5-yl]propane-1,2-diol (9.12 g, 0.029 mol) in anhydrous pyridine (290 mL) cooled to 0° C. was added p-toluenesulfonyl chloride (5.84 g, 0.031 mol) and the reaction mixture was allowed to stir for at 0° C. 12 h. The reaction mixture was quenched by the addition of water (10 mL) and the reaction mixture was allowed to stir at room temperature for 15 min. The reaction mixture was diluted with ethyl acetate (800 mL) and washed with aqueous hydrogen chloride (4×1000 mL, 2.0 N), water (500 mL), saturated aqueous sodium chloride (500 mL), dried (magnesium sulfate), and the solvent was removed in vacuo to afford (±)-3-[4-(benzyloxy)-7-methyl-2,3-dihydro-1H-inden-5-yl]-2-hydroxypropyl 4-methylbenzenesulfonate as a crude solid. Treatment of the tosylate with palladium on carbon (10 wt. %, 1.50 g) generally according to the procedure described for Intermediate 11 provided (±)-2-hydroxy-3-(4-hydroxy-7-methyl-2,3-dihydro-1H-inden-5-yl)propyl 4-methylbenzenesulfonate. Treatment of the phenyl with triphenylphoshine (10.17 g, 0.039 mol) and diethylazodicarboxylate (6.75 g, 0.039 mol) generally according to the procedure described for Intermediate 12 gave 9.44 g (91%) of (±)-(5-methyl-3,6,7,8-tetrahydro-2H-indeno[4,5-b]furan-2-yl)methyl 4-methylbenzenesulfonate as a white solid. Rf=0.62 (silica, ethyl acetate:hexanes 1:4); mp 61-64° C.; Anal. calcd. for C20H22O4S: C, 67.01; H, 6.19. Found: C, 67.02; H, 6.15.

reactant | (±)-3-[4-(benzyloxy)-7-methyl-2,3-dihydro-1H-inden-5-yl]propane-1,2-diol | 0.029 mol, 9.12 g | C(C1=CC=CC=C1)OC1=C2CCCC2=C(C=C1CC(CO)O)C | C20H24O3
reactant | p-toluenesulfonyl chloride | 0.031 mol, 5.84 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 290 mL | N1=CC=CC=C1 | C5H5N
product | (±)-3-[4-(benzyloxy)-7-methyl-2,3-dihydro-1H-inden-5-yl]-2-hydroxypropyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC(CC=1C(=C2CCCC2=C(C1)C)OCC1=CC=CC=C1)O | C27H30O5S
